US06919356B2
Part F: Preparation of trans-4-(benzyl-methyl-amino)-piperidine-3-carboxylic acid ethyl ester dihydrochloride
A solution of trans-4-(benzyl-methyl-amino)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (235 mg, 624 μmol) in ethyl acetate (2 mL) was stirred on an ice bath and treated with 4.0 N hydrogen chloride in dioxane (6 mL). The bath was removed, and the mixture was stirred at room temperature for 18 hours. The mixture was then concentrated under vacuum, and the residue was stirred in ether, and the ether was decanted. The ether treatment was repeated twice more, and the residue was dried under vacuum to provide a white powder (231 mg) which was used without purification. 1H NMR (300 MHz, methanol-d4) δ7.60 (m, 2H), 7.54 (m, 3H), 4.6-3.8 (m, 6H), 3.68 (m, 2H), 3.4-3.0 (m, 2H), 2.90 (s, 3H), 2.52 (m, 1H), 2.28 (m, 1H), 1.35 (m, 3H).

reactant | trans-4-(benzyl-methyl-amino)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 624 μmol, 235 mg | C(C)OC(=O)[C@@H]1CN(CC[C@H]1N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H32N2O4
reactant | hydrogen chloride | 4.0 N | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | trans-4-(benzyl-methyl-amino)-piperidine-3-carboxylic acid ethyl ester dihydrochloride | 231 mg | Cl.Cl.C(C)OC(=O)[C@@H]1CNCC[C@H]1N(C)CC1=CC=CC=C1 | InChI=1S/C16H24N2O2.2ClH/c1-3-20-16(19)14-11-17-10-9-15(14)18(2)12-13-7-5-4-6-8-13;;/h4-8,14-15,17H,3,9-12H2,1-2H3;2*1H/t14-,15-;;/m1../s1
